US05491173
1,2-bis (4-benzyloxyphenyl)-1-[4-[2-(N,N-dimethylamino) -ethoxy]phenyl]butan-1,4-diol is prepared according to the procedure described in Example 2 using methyl 4-benzyloxy-cinnamate and 4-benzyloxy-4'-dimethylaminoethoxybenzophenone as starting materials. The product is recrystallized from toluene. Yield is 64%.

reactant | methyl 4-benzyloxy-cinnamate | C(C1=CC=CC=C1)OC1=CC=C(C=CC(=O)OC)C=C1 | C17H16O3
reactant | 4-benzyloxy-4'-dimethylaminoethoxybenzophenone | C(C1=CC=CC=C1)OC1=CC=C(C(=O)C2=CC=C(C=C2)OCCN(C)C)C=C1 | C24H25NO3
product | 1,2-bis (4-benzyloxyphenyl)-1-[4-[2-(N,N-dimethylamino) -ethoxy]phenyl]butan-1,4-diol | Yield is 64% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(CCO)C1=CC=C(C=C1)OCC1=CC=CC=C1)(O)C1=CC=C(C=C1)OCCN(C)C | C40H43NO5
